US06894061B2
N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamid
3-Methoxybenzenesulfonyl chloride (331 mg, 1.6 mmol) was added to a solution of 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine (400 mg, 1.6 mmol) and triethylamine (246 μL, 1.7 mmol) in acetonitrile. The reaction was mixed at room temperature for 24 hours, afterwhich the acetonitrile was removed in vacuo. The remaining solid was dissolved in dichloromethane and purified by preparative liquid chromatogrpahy on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 5%-50% methyl tert-butyl ether in hexane (35 min), to afford the the desired product (694 mg, 99%) as a white solid;

reactant | 3-Methoxybenzenesulfonyl chloride | 1.6 mmol, 331 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine | 1.6 mmol, 400 mg | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)N)F | C14H13ClFN
reactant | triethylamine | 1.7 mmol, 246 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamid | 694 mg, 99% | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=CC(=CC=C1)OC)F | C21H19ClFNO3S
